US04471122
3-{2-[(2-Guanidino-4-thiazolyl)methylthio]ethylamino}-4-(3-pyridyl)methylamino-1,2,5-thiadiazole 1,1-dioxide
A solution of 2-[(2-guanidinothiazol-4-yl)methylthio]ethylamine (from the dihydrochloride, 7.0 g; 23 mmoles) in 180 ml of methanol was added dropwise to a partial suspension of 3,4-dimethoxy-1,2,5-thiadiazole 1,1-dioxide (4.1 g; 23 mmoles) in 400 ml of methanol at 8°. This was followed by 3-picolylamine (2.74 g; 25.3 mmoles) and the reaction mixture was stirred at 8° for 15 minutes and at ambient temperature for 20 hours. The reaction solution was evaporated and the residue flash chromatographed on 125 g of silica gel (230-400 mesh) using CH3CN(90):CH3OH(10):NH4OH(0.5) as the eluant. A second purification by preparative high pressure liquid chromatography on silica with CH2Cl2 (85):95%EtOH(15):NH4OH(0.5) as the mobile phase yielded 0.78 g of the title compound as a buff-colored foam containing 0.4 mole of ethanol, mp 128°-138° (foaming).

reactant | 2-[(2-guanidinothiazol-4-yl)methylthio]ethylamine | N(C(=N)N)C=1SC=C(N1)CSCCN | C7H13N5S2
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
reactant | 3,4-dimethoxy-1,2,5-thiadiazole 1,1-dioxide | 23 mmoles, 4.1 g | COC1=NS(N=C1OC)(=O)=O | C4H6N2O4S
reactant | 3-picolylamine | 25.3 mmoles, 2.74 g | N1=CC(=CC=C1)CN | C6H8N2
solvent | methanol | 180 ml | CO | CH4O
solvent | methanol | 400 ml | CO | CH4O
product | 3-{2-[(2-Guanidino-4-thiazolyl)methylthio]ethylamino}-4-(3-pyridyl)methylamino-1,2,5-thiadiazole 1,1-dioxide | 0.78 g | N(C(=N)N)C=1SC=C(N1)CSCCNC1=NS(N=C1NCC=1C=NC=CC1)(=O)=O | C15H19N9O2S3
